** sch_path: /home/eggert/caravel_user_project_analog/xschem/mpw8.sch
.subckt mpw8 gpio_analog[12] gpio_analog[9] gpio_analog[10] io_in[15] io_out[13] gpio_analog[5]
+ gpio_analog[0] gpio_analog[1] io_out[9] gpio_analog[13] io_in[10] gpio_analog[5] gpio_analog[13] gpio_analog[4]
+ vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1
+ vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vssd1 vdda1 vdda1
+ vdda1 vdda1 vdda1 vdda1 vdda1 vdda1 vdda1 vdda1 vdda1 vdda1 vdda1 gpio_analog[11] gpio_analog[11]
+ gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11]
+ gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11] gpio_analog[11]
+ io_in[10]
*.PININFO gpio_analog[12]:I gpio_analog[9]:I gpio_analog[10]:I io_in[15]:I io_out[13]:I
*+ gpio_analog[5]:I gpio_analog[0]:I gpio_analog[1]:I io_out[9]:I gpio_analog[13]:I io_in[10]:I gpio_analog[5]:I
*+ gpio_analog[13]:I gpio_analog[4]:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I
*+ vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I
*+ vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vssd1:I vdda1:I vdda1:I vdda1:I vdda1:I
*+ vdda1:I vdda1:I vdda1:I vdda1:I vdda1:I vdda1:I vdda1:I vdda1:I vdda1:I gpio_analog[11]:I gpio_analog[11]:I
*+ gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I
*+ gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I gpio_analog[11]:I
*+ gpio_analog[11]:I gpio_analog[11]:I io_in[10]:I
XC2 IN_1 net3 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
V4 __UNCONNECTED_PIN__0 GND SIN(0.9 1m 27000k)
V8 __UNCONNECTED_PIN__1 __UNCONNECTED_PIN__2 1.8
R21 gpio_analog[11] gpio_analog[12] 33k m=1
XC9 net16 FILT_2 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=20 m=20
XM45 vssd1 net2 net3 vdda1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM49 net3 PB vdda1 vdda1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM30 NB NB vssd1 vssd1 sky130_fd_pr__nfet_01v8_lvt L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM29 PB PB vdda1 vdda1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM15 net5 PB vdda1 vdda1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM18 net5 net8 vssd1 vssd1 sky130_fd_pr__nfet_01v8_lvt L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC16 net2 net5 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XC17 PB vssd1 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XC18 NB vssd1 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
R28 gpio_analog[9] gpio_analog[10] 10k m=1
R30 gpio_analog[10] __UNCONNECTED_PIN__3 10k m=1
XM14 net8 net8 net5 vdda1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC25 gpio_analog[13] net8 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XC26 vssd1 gpio_analog[11] sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
V2 __UNCONNECTED_PIN__4 __UNCONNECTED_PIN__5 0.9
C32 gpio_analog[4] vssd1 1.165n m=1
C33 gpio_analog[5] vssd1 117p m=1
R9 gpio_analog[5] gpio_analog[4] 1k m=1
R37 CTRL_IC2 gpio_analog[4] 658 m=1
C34 CTRL_IC2 vssd1 7.128n m=1
XC21 MIX_3 net11 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XC22 MIX_4 net7 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XR39 NB vdda1 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=10.5 mult=1 m=1
XR27 vssd1 PB vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=10.5 mult=1 m=1
XR5 gpio_analog[11] vdda1 vssd1 sky130_fd_pr__res_xhigh_po_5p73 L=10 mult=1 m=1
XR29 vssd1 gpio_analog[11] vssd1 sky130_fd_pr__res_xhigh_po_5p73 L=10 mult=1 m=1
XR33 net2 gpio_analog[11] vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
XR32 gpio_analog[11] IN_1 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
XR3 gpio_analog[11] MIX_3 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
XR4 gpio_analog[11] MIX_4 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
XR31 gpio_analog[11] net16 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
XR36 net15 FILT_2_PH vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=8.7 mult=1 m=1
XR22 net1 net15 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=8.7 mult=1 m=1
x1 vdda1 MIX_2 gpio_analog[11] MIX_1 vssd1 NB net4 analogsub
x2 vdda1 MIX_4 gpio_analog[11] MIX_3 vssd1 NB net9 analogsub
XC8 MIX_1 net10 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XR14 gpio_analog[11] MIX_1 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
XC10 MIX_2 net6 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XR15 gpio_analog[11] MIX_2 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=30 mult=1 m=1
x13 vdda1 MIX_B MIX_A IN_1 gpio_analog[11] net11 net7 NB PB vssd1 gilbert
x14 vdda1 MIX_D MIX_C IN_1 gpio_analog[11] net10 net6 NB PB vssd1 gilbert
x15 vdda1 net15 gpio_analog[12] FILT_2_PH vssd1 opamp
x16 vdda1 gpio_analog[10] net14 gpio_analog[9] vssd1 opamp
XC24 net14 net12 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=20 m=20
XR25 gpio_analog[11] net14 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
x3 vdda1 FILT_2_PH gpio_analog[11] net13 vssd1 NB net12 analogsub
XC5 net13 FILT_1 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=20 m=20
XR13 gpio_analog[11] net13 vssd1 sky130_fd_pr__res_xhigh_po_0p35 L=l mult=1 m=1
x4 vdda1 gpio_analog[5] vssd1 net17 vco
XM1 vssd1 net5 net8 vdda1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x12 vdda1 net1 net16 net1 vssd1 opamp
x17 vdda1 net4 FILT_1 PB vssd1 filter
x18 vdda1 net9 FILT_2 PB vssd1 filter
x1clkdiv vdda1 io_out[13] A vssd1 clkdiv
x5 vdda1 A io_in[10] gpio_analog[4] vssd1 phasecmp
V1 __UNCONNECTED_PIN__6 GND pulse 0 1.8 '0.495/ 4e6 ' '0.01/4e6 ' '0.01/4e6 ' '0.49/4e6 ' '1/4e6 '
x1 vdda1 io_in[15] MIX_A MIX_B MIX_C MIX_D vssd1 quadgen
C1 gpio_analog[9] 0 10p m=1
XC3 vssd1 vdda1 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
x79 net17 vssd1 vssd1 vdda1 vdda1 io_out[13] sky130_fd_sc_hd__clkbuf_16
XM2 gpio_analog[1] gpio_analog[0] vssd1 vssd1 sky130_fd_pr__nfet_01v8 L=3 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM27 gpio_analog[1] gpio_analog[0] vdda1 vdda1 sky130_fd_pr__pfet_01v8 L=3 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x6 gpio_analog[1] vssd1 vssd1 vdda1 vdda1 io_out[9] sky130_fd_sc_hd__clkbuf_16
XC4 gpio_analog[12] net1 sky130_fd_pr__cap_mim_m3_1 W=24.8 L=24.8 MF=4 m=4
XC7 vdda1 vssd1 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
XC11 gpio_analog[11] vssd1 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=10 m=10
**** begin user architecture code


.include "/home/eggert/caravel_user_project_analog/xschem/analogsub.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/gilbert.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/filter.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/opamp.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/vco.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/clkdiv.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/phasecmp.spice"
.include "/home/eggert/caravel_user_project_analog/xschem/quadgen.spice"

.ic v(CTRL_IC)=0.9
.ic v(CTRL_IC2)=0.9
.ic v(CTRL)=0.9

.option wnflag=1
.param x=4.25
.param l=30
vvcc vcc 0 dc 1.8
vvss vss 0 0
.control
tran 30p 15u 13u
write sim.raw
.endc


 .lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /usr/local/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**** end user architecture code
.ends
.GLOBAL GND
.end
